US04238488
4-Hydroxybenzaldehyde (1.34 g.) and sodium cyanoborohydride (0.7 g.) were added to a solution of methyl 1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride (3.1 g.) in methanol (30 ml.). The mixture was stirred for 3 days at 25° C., evaporated and water (30 ml.) added to the residue followed by concentrated hydrochloric acid to pH 1. This mixture was extracted with ether (2×20 ml.) and the extracts discarded. The aqueous phase was basified to pH 9 with 10% w/v sodium carbonate solution and then extracted with ether (2×30 ml.). The combined extracts were dried (MgSO4) and evaporated. The oil obtained was dissolved in acetone and treated with a slight excess of ethereal hydrogen chloride. The solid which was precipitated was collected by filtration to give methyl 1-(4-hydroxybenzyl)-1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride (2.05 g.). A portion was recrystallised from methanol and acetone to give pure material of m.p. 212°-214° C. (dec.).

reactant | 4-Hydroxybenzaldehyde | 1.34 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | sodium cyanoborohydride | 0.7 g | C(#N)[BH3-].[Na+]
reactant | methyl 1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride | 3.1 g | Cl.N1CC(=CCC1)C(=O)OC
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | methyl 1-(4-hydroxybenzyl)-1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride | 2.05 g | Cl.OC1=CC=C(CN2CC(=CCC2)C(=O)OC)C=C1 | InChI=1S/C14H17NO3.ClH/c1-18-14(17)12-3-2-8-15(10-12)9-11-4-6-13(16)7-5-11;/h3-7,16H,2,8-10H2,1H3;1H
